US07569579B2
Preparation 2: (1R)-3-cyano-3-phenyl-1-{[(phenylmethyl)oxy]methyl}propyl 4-methylbenzenesulfonate
(4R)-4-hydroxy-2-phenyl-5-[(phenylmethyl)oxy]pentanenitrile (16.0 g, 57 mmol), accessed via the method of preparation 1, was dissolved in 116 mL CHCl3 and 116 mL Pyridine (25 eq) with DMAP (0.70 g, 5.7 mmol, 0.1 eq) and cooled to 0° C. 4-methylbenzenesulfonyl chloride (43.5 g, 228 mmol, 4 eq) was added to the reaction mixture and stirred 3 days at 0° C. The reaction mixture was washed successively with 1N HCl (4×250 mL) and brine, dried over MgSO4, filtered and concentrated to a red oil. The crude material was purified by flash chromatography (SiO2, 10→25% EtOAc/Hexanes) to give the diastereomeric product as a yellow oil (14.88 g, 34.2 mmol, 60%). ES-LCMS m/z 458.36 (M+Na).

reactant | (4R)-4-hydroxy-2-phenyl-5-[(phenylmethyl)oxy]pentanenitrile | 57 mmol, 16.0 g | O[C@H](CC(C#N)C1=CC=CC=C1)COCC1=CC=CC=C1 | C18H19NO2
reactant | Pyridine | 116 mL, 25 eq | N1=CC=CC=C1 | C5H5N
reactant | 4-methylbenzenesulfonyl chloride | 228 mmol, 43.5 g, 4 eq | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | CHCl3 | 116 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 5.7 mmol, 0.70 g, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (1R)-3-cyano-3-phenyl-1-{[(phenylmethyl)oxy]methyl}propyl 4-methylbenzenesulfonate | 34.2 mmol, 14.88 g, 60% | CC1=CC=C(C=C1)S(=O)(=O)O[C@H](CC(C1=CC=CC=C1)C#N)COCC1=CC=CC=C1 | C25H25NO4S
